US09382226B2
Step A. 5-(methyl-thio)-2-nitro-N-(pyridin-3-ylmethyl)aniline
To a stirred solution of 2,4-difluoro-1-nitrobenzene (2 g, 0.012 mol) in DMSO (60 ml) was added K2CO3 (5.2 g, 0.037 mol). Then pyridin-3-ylmethanamine (1.05 g, 0.013 mol) was added drop wise and the resulting solution was continued to stir at room temperature for 6 h. After complete conversion of 2,4-difluoro-1-nitrobenzene monitored by MS sodium thio-methoxide (1.2 g, 0.013 mol) was added and heated at 60° C. for the next 12 h. The reaction was diluted with ice cold water and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with brine dried over Na2SO4 and concentrated under vacuum to afford the crude compound which was purified by chromatography to obtain title compound 5-(methyl-thio)-2-nitro-N-(pyridin-3-ylmethyl)aniline as a yellow solid. 1H NMR (400 MHz, CDCl3), δ: 8.65 (s, 1H), 8.58 (s, 2H), 8.11-8.09 (d, J=9.2 Hz, 1H), 7.69-7.67 (d, J=7.6 Hz, 1H), 7.33-7.29 (m, 1H), 6.54-6.51 (dd, J=7.2 Hz, J=1.6 Hz, 1H), 6.43 (s, 1H), 4.58-4.57 (d, J=5.6 Hz, 2H), 2.48 (s, 3H). MS (M+1): 276.

reactant | 2,4-difluoro-1-nitrobenzene | 0.012 mol, 2 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | K2CO3 | 0.037 mol, 5.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | pyridin-3-ylmethanamine | 0.013 mol, 1.05 g | N1=CC(=CC=C1)CN | C6H8N2
reactant | sodium thio-methoxide | 0.013 mol, 1.2 g | C[S-].[Na+]
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | 5-(methyl-thio)-2-nitro-N-(pyridin-3-ylmethyl)aniline | CSC=1C=CC(=C(NCC=2C=NC=CC2)C1)[N+](=O)[O-] | C13H13N3O2S
